US04889857
A mixture of 58 g of 2-chloromethyl-4-benzylmorpholine, 62.3 g of N-benzyl-N-methylamine and 38.6 g of sodium iodide in 220 ml of dimethylformamide is refluxed under stirring at 140° C. for 6 hours. After completion of the reaction, the dimethylformamide is distilled off under reduced pressure, water is added to the residue and the mixture is subjected to extraction with ethyl acetate. After washing with water, the resultant mixture is dried over anhydrous magnesium sulfate and the solvent is distilled off under reduced pressure. The residue is treated in 37% hydrochloric acid-ethanol to give 2-(N-benzyl-N-methylaminomethyl)-4-benzylmorpholine dihydrochloride as white crystals. The obtained hydrochloride compound (29.7 g) is subjected to catalytic reduction with 50 ml of ethanol, 80 ml of water and 3 g of 10% palladium-carbon. After absorbing the theoretical volume of the hydrogen, the catalyst is filtered off and the solvent of the filtrate is distilled off to give 2-(methylaminomethyl)morpholine dihydrochloride monohydrate as white crystals, melting at 122°-124° C.

reactant | 2-chloromethyl-4-benzylmorpholine | 58 g | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | N-benzyl-N-methylamine | 62.3 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | sodium iodide | 38.6 g | [I-].[Na+]
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | 2-(N-benzyl-N-methylaminomethyl)-4-benzylmorpholine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CC1CN(CCO1)CC1=CC=CC=C1 | InChI=1S/C20H26N2O.2ClH/c1-21(14-18-8-4-2-5-9-18)16-20-17-22(12-13-23-20)15-19-10-6-3-7-11-19;;/h2-11,20H,12-17H2,1H3;2*1H
